US05179200
Preparation of N4-(3-phenylpropionyl)-2'-deoxycytidine (compound 1)
20 mmole of deoxycytidine are dried and are then dissolved in 100 ml of anhydrous pyridine. To this solution is then added 10 ml of trimethylsilyl chloride (80 mmole) and the reaction is allowed to develop at ordinary temperature for 25 minutes. 14.6 g (50 mmole) of phenylpropionic anhydride are then added and the reaction is allowed to continue for 17 hours at 4° C.

reactant | deoxycytidine | 20 mmole | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O4
reactant | trimethylsilyl chloride | 80 mmole, 10 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | phenylpropionic anhydride | 50 mmole, 14.6 g | C1(=CC=CC=C1)C(C(=O)OC(C(C)C1=CC=CC=C1)=O)C | C18H18O3
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | N4-(3-phenylpropionyl)-2'-deoxycytidine | C1(=CC=CC=C1)CCC(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1)=O | C18H21N3O5
